US07855201B2
Step 7: (±)-N-isobutyl-N-(2,3,4,5-tetrahydro-1-benzoxepin-8-ylmethyl)morpholine-2-carboxamide hydrochloride
To a solution of 0.798 g (1.79 mmol) of (±)-tert-butyl 2-{[isobutyl(2,3,4,5-tetrahydro-1-benzoxepin-8-ylmethyl)amino]carbonyl}morpholine-4-carboxylate in 3.6 mL of dioxane cooled in an ice-bath was added 3.6 mL (14.4 mmol, 8 equiv) of 4M HCl in dioxane. The solution was stirred 30 minutes with cooling, then for 3.5 hours at ambient temperature. The solution was concentrated under reduced pressure, the residue triturated with ether, and dried under vacuum to give the product as a white solid. MS (m+1)=347.3; H NMR (400 MHz, CD3OD) 7.12 (m, 1H), 6.84 (m, 2H), 4.8-4.6 (m, 2H), 4.58-4.39 (m, 1H), 4.1-3.85 (m, 4H), 3.5-3.35 (m, 3H), 3.24 (m, 2H), 3.15-2.92 (m, 1H), 2.78 (m, 2H), 2.02 (m, 1H), 1.95 (m, 2H), 1.71 (m, 2H), 0.89 (m, 6H).

reactant | (±)-tert-butyl 2-{[isobutyl(2,3,4,5-tetrahydro-1-benzoxepin-8-ylmethyl)amino]carbonyl}morpholine-4-carboxylate | 1.79 mmol, 0.798 g | C(C(C)C)N(C(=O)C1CN(CCO1)C(=O)OC(C)(C)C)CC1=CC2=C(CCCCO2)C=C1 | C25H38N2O5
reactant | HCl | 14.4 mmol, 4M, 3.6 mL, 8 equiv | Cl | ClH
solvent | dioxane | 3.6 mL | O1CCOCC1 | C4H8O2
product | (±)-N-isobutyl-N-(2,3,4,5-tetrahydro-1-benzoxepin-8-ylmethyl)morpholine-2-carboxamide hydrochloride | Cl.C(C(C)C)N(C(=O)C1CNCCO1)CC1=CC2=C(CCCCO2)C=C1 | InChI=1S/C20H30N2O3.ClH/c1-15(2)13-22(20(23)19-12-21-8-10-25-19)14-16-6-7-17-5-3-4-9-24-18(17)11-16;/h6-7,11,15,19,21H,3-5,8-10,12-14H2,1-2H3;1H
